### PR TITLE
chore: remove redudant haveI/letI in defs

### PR DESCRIPTION
**Pull request by felixpernegger**
Like #41625, but for defs and instances. This is more risky, since it can in theory change a definition, But for this PR, all pretty printed version stay (or at least ought to stay) the same.

Together with #41625 this removes almost all redundant haveI/letI ´. Few (<2%) remain, but I was getting to a point of diminishing returns, so i let them be for now.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by felixpernegger** [comment]
!bench

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/22c96ca8bdb87f0f28016e565d20bc4ec9d50dbd?reference=4efb186f102ebfd2eea1545c151d6fbcfdff0e43) for 22c96ca8bdb87f0f28016e565d20bc4ec9d50dbd against 4efb186f102ebfd2eea1545c151d6fbcfdff0e43 are in. No significant results found. @felixpernegger

- 🟥 `build//instructions`: **+257.9G** (**+0.17%**)

**Medium changes (1🟥)**

1 hidden

File: Mathlib/AlgebraicGeometry/IdealSheaf/Basic.lean [hunk 1]
```diff
@@ -577,7 +575,7 @@ noncomputable nonrec def vanishingIdeal (Z : Closeds X) : IdealSheafData X :=
           (Spec.map (X.presheaf.map (homOfLE _).op) x) ?_
         rwa [Set.mem_preimage, ← Scheme.Hom.comp_apply,
           IsAffineOpen.map_fromSpec _ (X.affineBasicOpen f).2]
-      · letI : Algebra Γ(X, U) Γ(X, X.affineBasicOpen f) := F.hom.toAlgebra
+      ·
         have : IsLocalization.Away f Γ(X, X.basicOpen f) :=
```
Comment (felixpernegger) [inline Mathlib/AlgebraicGeometry/IdealSheaf/Basic.lean]:
```suggestion
      · have : IsLocalization.Away f Γ(X, X.basicOpen f) :=
```

File: Mathlib/Analysis/InnerProductSpace/PiL2.lean [hunk 2]
```diff
@@ -1192,8 +1192,6 @@ noncomputable def LinearIsometry.extend (L : S →ₗᵢ[𝕜] V) : V →ₗᵢ[
         ((stdOrthonormalBasis 𝕜 LSᗮ).reindex <| finCongr dim_LS_perp).repr.symm
   let L3 := LSᗮ.subtypeₗᵢ.comp E.toLinearIsometry
   -- Project onto S and Sᗮ
```
Comment (felixpernegger) [inline Mathlib/Analysis/InnerProductSpace/PiL2.lean]:
```suggestion
```

File: Mathlib/Analysis/Normed/Module/Complemented.lean [hunk 3]
```diff
@@ -97,7 +96,7 @@ isomorphic to `E`. -/
 @[deprecated prodEquivOfIsTopCompl (since := "2026-06-07")]
 def prodEquivOfClosedCompl (h : IsCompl p q) (hp : IsClosed (p : Set E))
     (hq : IsClosed (q : Set E)) : (p × q) ≃L[𝕜] E := by
-  haveI := hp.completeSpace_coe; haveI := hq.completeSpace_coe
+  haveI := hp.completeSpace_coe;
```
Comment (felixpernegger) [inline Mathlib/Analysis/Normed/Module/Complemented.lean]:
```suggestion
  haveI := hp.completeSpace_coe
```

File: Mathlib/CategoryTheory/Generator/Basic.lean [hunk 4]
```diff
@@ -663,7 +663,7 @@ theorem isSeparator_iff_epi (G : C) [∀ A : C, HasCoproduct fun _ : G ⟶ A =>
   rw [isSeparator_def]
   refine ⟨fun h A => ⟨fun u v huv => h _ _ fun i => ?_⟩, fun h X Y f g hh => ?_⟩
   · simpa using Sigma.ι _ i ≫= huv
-  · haveI := h X
+  ·
     refine (cancel_epi (Sigma.desc fun f : G ⟶ X => f)).1 (colimit.hom_ext fun j => ?_)
```
Comment (felixpernegger) [inline Mathlib/CategoryTheory/Generator/Basic.lean]:
```suggestion
  · refine (cancel_epi (Sigma.desc fun f : G ⟶ X => f)).1 (colimit.hom_ext fun j => ?_)
```

File: Mathlib/CategoryTheory/Generator/Basic.lean [hunk 5]
```diff
@@ -673,7 +673,7 @@ theorem isCoseparator_iff_mono (G : C) [∀ A : C, HasProduct fun _ : A ⟶ G =>
   rw [isCoseparator_def]
   refine ⟨fun h A => ⟨fun u v huv => h _ _ fun i => ?_⟩, fun h X Y f g hh => ?_⟩
   · simpa using huv =≫ Pi.π _ i
-  · haveI := h Y
+  ·
     refine (cancel_mono (Pi.lift fun f : Y ⟶ G => f)).1 (limit.hom_ext fun j => ?_)
```
Comment (felixpernegger) [inline Mathlib/CategoryTheory/Generator/Basic.lean]:
```suggestion
  · refine (cancel_mono (Pi.lift fun f : Y ⟶ G => f)).1 (limit.hom_ext fun j => ?_)
```

File: Mathlib/CategoryTheory/MorphismProperty/Representable.lean [hunk 6]
```diff
@@ -282,7 +282,7 @@ lemma of_isIso {X Y : D} (f : X ⟶ Y) [IsIso f] : F.relativelyRepresentable f :
   fun a g ↦ ⟨a, 𝟙 a, g ≫ CategoryTheory.inv f, IsPullback.of_vert_isIso ⟨by simp⟩⟩
 
 lemma isomorphisms_le : MorphismProperty.isomorphisms D ≤ F.relativelyRepresentable :=
-  fun _ _ f hf ↦ letI : IsIso f := hf; of_isIso F f
+  fun _ _ f hf ↦ of_isIso F f
```
Comment (felixpernegger) [inline Mathlib/CategoryTheory/MorphismProperty/Representable.lean]:
```suggestion
  fun _ _ f hf ↦ letI : IsIso f := hf; of_isIso F f
```

File: Mathlib/Data/Sym/NatCard.lean [hunk 7]
```diff
@@ -76,7 +76,7 @@ lemma ncard_diagSet_compl : (diagSetᶜ : Set (Sym2 α)).ncard = (Nat.card α).c
 /-- Type **stars and bars** for the case `n = 2`. -/
 protected theorem natCard : Nat.card (Sym2 α) = Nat.choose (Nat.card α + 1) 2 := by
   cases finite_or_infinite α
-  · obtain ⟨_⟩ := nonempty_fintype α; letI := Classical.decEq α
+  · obtain ⟨_⟩ := nonempty_fintype α;
```
Comment (felixpernegger) [inline Mathlib/Data/Sym/NatCard.lean]:
```suggestion
  · obtain ⟨_⟩ := nonempty_fintype α
```

File: Mathlib/LinearAlgebra/Dimension/StrongRankCondition.lean [hunk 8]
```diff
@@ -317,7 +317,7 @@ theorem maximal_linearIndependent_eq_infinite_basis {ι : Type w} (b : Basis ι
     {κ : Type w} (v : κ → M) (i : LinearIndependent R v) (m : i.Maximal) : #κ = #ι := by
   apply le_antisymm
   · exact linearIndependent_le_basis b v i
-  · haveI : Nontrivial R := nontrivial_of_invariantBasisNumber R
+  ·
     exact infinite_basis_le_maximal_linearIndependent b v i m
```
Comment (felixpernegger) [inline Mathlib/LinearAlgebra/Dimension/StrongRankCondition.lean]:
```suggestion
  · exact infinite_basis_le_maximal_linearIndependent b v i m
```

File: Mathlib/MeasureTheory/Function/StronglyMeasurable/Basic.lean [hunk 9]
```diff
@@ -268,7 +268,7 @@ theorem finStronglyMeasurable_of_set_sigmaFinite [TopologicalSpace β] [Zero β]
     refine fun n => measure_biUnion_lt_top {y ∈ (fs n).range | y ≠ 0}.finite_toSet fun y hy => ?_
     rw [SimpleFunc.restrict_preimage_singleton _ ((hS_meas n).inter ht)]
     swap
-    · letI : (y : β) → Decidable (y = 0) := fun y => Classical.propDecidable _
+    ·
       rw [Finset.mem_coe, Finset.mem_filter] at hy
```
Comment (felixpernegger) [inline Mathlib/MeasureTheory/Function/StronglyMeasurable/Basic.lean]:
```suggestion
    · rw [Finset.mem_coe, Finset.mem_filter] at hy
```

File: Mathlib/MeasureTheory/Function/SimpleFunc.lean [hunk 10]
```diff
@@ -318,7 +318,7 @@ def extend [MeasurableSpace β] (f₁ : α →ₛ γ) (g : α → β) (hg : Meas
     (f₁.finite_range.union <| f₂.finite_range.subset (image_subset_range _ _)).subset
       (range_extend_subset _ _ _)
   measurableSet_fiber' := by
-    letI : MeasurableSpace γ := ⊤; haveI : MeasurableSingletonClass γ := ⟨fun _ => trivial⟩
+    letI : MeasurableSpace γ := ⊤;
```
Comment (felixpernegger) [inline Mathlib/MeasureTheory/Function/SimpleFunc.lean]:
```suggestion
    letI : MeasurableSpace γ := ⊤
```

File: Mathlib/RingTheory/Ideal/Quotient/Basic.lean [hunk 11]
```diff
@@ -93,7 +93,7 @@ instance isDomain [hI : I.IsPrime] : IsDomain (R ⧸ I) :=
 
 theorem isDomain_iff_prime : IsDomain (R ⧸ I) ↔ I.IsPrime := by
   refine ⟨fun H => ⟨zero_ne_one_iff.1 ?_, fun {x y} h => ?_⟩, fun h => inferInstance⟩
-  · haveI : Nontrivial (R ⧸ I) := ⟨H.2.1⟩
+  ·
     exact zero_ne_one
```
Comment (felixpernegger) [inline Mathlib/RingTheory/Ideal/Quotient/Basic.lean]:
```suggestion
  · exact zero_ne_one
```

File: Mathlib/RingTheory/Norm/Transitivity.lean [hunk 12]
```diff
@@ -266,7 +266,7 @@ theorem norm_eq_prod_embeddings [Algebra.IsSeparable K L] [IsAlgClosed E]
   rw [norm_eq_norm_adjoin K x, map_pow, ← adjoin.powerBasis_gen hx,
     norm_eq_prod_embeddings_gen E (adjoin.powerBasis hx) (IsAlgClosed.splits _)]
   · exact (prod_embeddings_eq_finrank_pow L (L := K⟮x⟯) E (adjoin.powerBasis hx)).symm
-  · haveI := Algebra.isSeparable_tower_bot_of_isSeparable K K⟮x⟯ L
+  ·
     exact Algebra.IsSeparable.isSeparable K _
```
Comment (felixpernegger) [inline Mathlib/RingTheory/Norm/Transitivity.lean]:
```suggestion
  · exact Algebra.IsSeparable.isSeparable K _
```

File: Mathlib/RingTheory/Trace/Basic.lean [hunk 13]
```diff
@@ -257,7 +257,7 @@ theorem trace_eq_sum_embeddings [FiniteDimensional K L] [Algebra.IsSeparable K L
     trace_eq_sum_embeddings_gen E pb (IsAlgClosed.splits _), ← Algebra.smul_def,
     algebraMap_smul]
   · exact (sum_embeddings_eq_finrank_mul L E pb).symm
-  · haveI := Algebra.isSeparable_tower_bot_of_isSeparable K K⟮x⟯ L
+  ·
     exact Algebra.IsSeparable.isSeparable K _
```
Comment (felixpernegger) [inline Mathlib/RingTheory/Trace/Basic.lean]:
```suggestion
  · exact Algebra.IsSeparable.isSeparable K _
```

**Comment by felixpernegger** [comment]
!bench

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/5c90c425bcc25ebd2e40efea20860a703f3e987c?reference=4efb186f102ebfd2eea1545c151d6fbcfdff0e43) for 5c90c425bcc25ebd2e40efea20860a703f3e987c against 4efb186f102ebfd2eea1545c151d6fbcfdff0e43 are in. No significant results found. @felixpernegger

- 🟥 `build//instructions`: **+248.8G** (**+0.16%**)

**Medium changes (1🟥)**

1 hidden

**Comment by felixpernegger** [comment]
Putting this is draft until I have mititgated the performance issues
